### ISSUE TITLE
Grind fails with `invalid pattern(s)` when a match is defined in another module

### ISSUE THREAD

**Issue by ineol** [leanprover/lean4#11715]
### Description

I was converting a development to using modules, and I hit a bug where a previously working `grind` invocation now fails with the error `invalid pattern(s) for func.match_1.congr_eq_2 [func.match_1✝ #5 #4 #3 #2]`

### Context

After investigating, I think the issue is that for the function that is defined in the other module, the call to `Lean.Meta.isMatcher` for `func.match_1.congr_eq_2` returns false, so that grind does not do its preprocessing, and does not add the `genPattern` gadget to the congruence theorem.

### Steps to Reproduce

1. Write the development copy-pasted below which defines `func` and tries to prove a simple property
2. Try to prove `foo` using `grind`

Note that it also happens if the file that defines `func` is in a module, but the file with the theorem does not use modules.

**Expected behavior:** grind proves the goal.

**Actual behavior:** grind fails with the error

```text
invalid pattern(s) for `func.match_1.congr_eq_2`
  [func.match_1✝ #5 #4 #3 #2]
the following theorem parameters cannot be instantiated:
  nextPtr : Nat
  heq_1 : x✝ = some nextPtr

```

### Versions

Lean 4.28.0-nightly-2025-12-17
Target: arm64-apple-darwin24.6.0 macOS

### Additional Information

I needed two files:
```lean
module

public section

structure OpOperand2 where
  nextUse : Option Nat

def func (ctx: Nat) (operand: OpOperand2) : Nat :=
  match hNextUse: operand.nextUse with
  | none => ctx
  | some nextPtr => ctx
```

and 

```lean
module

import all Otherfile

attribute [local grind] func

-- An exact copy of `func` but in this module.
@[local grind]
def func2 (ctx: Nat) (operand: OpOperand2) : Nat :=
  match hNextUse: operand.nextUse with
  | none => ctx
  | some nextPtr => ctx

@[simp, grind =]
theorem stmt1 : func ctx op = ctx := by
  -- unfold OpOperandPtr.removeFromCurrent <;> split <;> grind -- works
  grind -- fails

@[simp, grind =]
theorem stmt2 : func2 ctx op = ctx := by grind -- works
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
